US08242116B2
7-Bromo-6-methyl-2H-1,4-benzoxazin-3(4H)-one
To a suspension of 6-methyl-2H-1,4-benzoxazin-3(4H)-one (10.0 g, 61.3 mmol) in DCM (200 mL) and THF (200 mL) at 0° C. was added bromine (15.0 g, 93.7 mmol) dropwise. The reaction mixture was stirred at this temperature for 30 minutes, then filtered. The solid was washed with Et2O (200 mL) to give the title compound (11.95 g, 80%) as a white solid that was used without further purification. δH (CDCl3) 8.95 (1H, s), 7.16 (1H, s), 6.70 (1H, s), 4.59 (2H, s), 2.31 (3H, s).

reactant | 6-methyl-2H-1,4-benzoxazin-3(4H)-one | 61.3 mmol, 10.0 g | CC=1C=CC2=C(NC(CO2)=O)C1 | C9H9NO2
reactant | bromine | 93.7 mmol, 15.0 g | BrBr | Br2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 7-Bromo-6-methyl-2H-1,4-benzoxazin-3(4H)-one | 11.95 g, 80% | BrC1=CC2=C(NC(CO2)=O)C=C1C | C9H8BrNO2
